US04189581
2.64 g of formic acid/acetic acid anhydride are dripped, while cooling, into a suspension of 2.9 g of 2,4-diamino-5-(3,4,5-trimethoxybenzyl)-pyrimidine (trimethoprim) in 35 ml of pyridine and reacted at 50° to 60° C. for two hours. The reaction mixture is then poured into 400 ml of water and the precipitate is filtered off and recrystallized from a mixture of dimethylformamide and water. 2.4 g (75% of theory) of 4-amino-2-formamido-5-(3,4,5-trimethoxybenzyl)-pyrimidine of melting point 240° to 242° C. are obtained.

reactant | formic acid acetic acid anhydride | 2.64 g | C(=O)O.C(C)(=O)OC(C)=O
reactant | 2,4-diamino-5-(3,4,5-trimethoxybenzyl)-pyrimidine | 2.9 g | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)OC | C14H18N4O3
reactant | water | 400 ml | O | H2O
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | 4-amino-2-formamido-5-(3,4,5-trimethoxybenzyl)-pyrimidine | 2.4 g, 75% | NC1=NC(=NC=C1CC1=CC(=C(C(=C1)OC)OC)OC)NC=O | C15H18N4O4
